US07217723B2
3-(4-Fluorophenyl)-2-[(7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carbonyl)amino]propionic acid
From 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid (the compound of Preparation Example 4) (105 mg) and DL-4-fluorophenylalanine, the title compound (190 mg) was obtained as a viscous yellow oily substance, in the same way as Preparation Example 116.

reactant | 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | O=C1CCCC2=C1SC=C2C(=O)O | C9H8O3S
reactant | DL-4-fluorophenylalanine | C1=CC(=CC=C1CC(C(=O)O)N)F | C9H10FNO2
product | 3-(4-Fluorophenyl)-2-[(7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carbonyl)amino]propionic acid | 190 mg | FC1=CC=C(C=C1)CC(C(=O)O)NC(=O)C=1C2=C(SC1)C(CCC2)=O | C18H16FNO4S
